US09107958B2
A solution of N-hydroxyphthalimide (3.36 g), benzyl (4-hydroxybutyl)carbamate (4.18 g) and triphenylphosphine (7.41 g) in dichloromethane (100 mL) was chilled in an ice bath and approximately two-thirds of a solution of diisopropylazodicarboxylate (DIAD, 5.68 g) in dichloromethane (50 mL) was slowly added with stirring. The internal temperature of the reaction was monitored and the addition of the DIAD solution was stopped when an exotherm could no longer be detected. The ice bath was removed and the reaction was allowed to warm to room temperature. The reaction was concentrated under reduced pressure and the resulting residue was dissolved in ethanol (200 proof, 100 mL). Hydrazine (1.98 g, 35% in water) was added and the reaction was stirred for 6 hours. The reaction was cooled in the freezer and the resulting solid was removed by filtration. The solid was washed with ethanol (50 mL). The combined filtrate was concentrated under reduced pressure and diethyl ether (100 mL) was added. Insoluble impurities were removed by filtration and 2.0 M HCl in ether (10 mL) was added to the solution. A precipitate formed immediately. The crude product was added to toluene (100 mL) and heated at reflux temperature for one hour. After cooling to room temperature, the solid product was recovered by filtration, washed with toluene, and dried under vacuum to yield 3.76 g of benzyl (4-aminooxybutyl)carbamate.

reactant | N-hydroxyphthalimide | 3.36 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | benzyl (4-hydroxybutyl)carbamate | 4.18 g | OCCCCNC(OCC1=CC=CC=C1)=O | C12H17NO3
reactant | triphenylphosphine | 7.41 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 5.68 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | benzyl (4-aminooxybutyl)carbamate | 3.76 g | NOCCCCNC(OCC1=CC=CC=C1)=O | C12H18N2O3
